US04326997
Preparation of 2,6-Dimethyl-4-(3-methylbutyl)anisole
A solution of 2,6-dimethyl-4-(3-methyl-2-butenyl)anisole (10 l g, 0.05 mol) in isopropanol (20 mL), together with 5% palladium on carbon (0.1 g) was hydrogenated in a Parr apparatus until the theoretical amount of hydrogen had been consumed. The catalyst was removed by filtration and the solvent evaporated to give a clear residue which was fractionated to afford 7.1 g of the desired product, bp 102°-105° C. (2 mm). NMR (CDCl3) δ0.9 (6H, d), 1.1-2.0 (3H, m), 2.2 (6H, s), 2.5 (2H, t), 3.7 (3H, s), 6.85 (2H, s). IR (film) 3000, 1225, 1025, 870 cm-1. MS (m/e) 206 (M+), 149, 150, 135, 191.

reactant | 2,6-dimethyl-4-(3-methyl-2-butenyl)anisole | 0.05 mol, 10 l | CC1=C(C(=CC(=C1)CC=C(C)C)C)OC | C14H20O
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 2,6-Dimethyl-4-(3-methylbutyl)anisole | 7.1 g | CC1=C(C(=CC(=C1)CCC(C)C)C)OC | C14H22O
